** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/schematic/xschem/vcr_bisection.sch
.subckt vcr_bisection i3_b2 i3_b1 i3_b4 i3_b3 i1_b0 i1_b1 i1_b2 i1_b4 i1_b3 i2_b0 i2_b1 i2_b2 i2_b4 i2_b3 i3_b0 Vctrl Vdd Vss T2
+ T1
*.PININFO T1:I T2:I Vctrl:I Vdd:I Vss:I i1_b0:I i1_b1:I i1_b2:I i1_b4:I i1_b3:I i2_b0:I i2_b1:I i2_b2:I i2_b4:I i2_b3:I i3_b0:I
*+ i3_b1:I i3_b2:I i3_b4:I i3_b3:I
x4 ib3 Vss vgate Vctrl Vdd Vcm voltage_sum
MM1 T2 vgate T1 Vss sg13_hv_nmos w=15u l=10u ng=2
x1 Vdd T1 Vss net1 ib2 net1 opamp_rtr
x2 Vdd T2 Vss net2 ib1 net2 opamp_rtr
x3 i3_b0 Vdd i3_b1 ib3 i3_b2 i3_b3 Vss i3_b4 isource_beta
x5 i2_b0 Vdd i2_b1 ib2 i2_b2 i2_b3 Vss i2_b4 isource_beta
x6 i1_b0 Vdd i1_b1 ib1 i1_b2 i1_b3 Vss i1_b4 isource_beta
RR4 Vcm net1 12.992k $SUB=vss $[rppd] w=1e-6 l=50e-6 b=0
RR1 net2 Vcm 12.992k $SUB=vss $[rppd] w=1e-6 l=50e-6 b=0
RR2 Vss Vss 1.3272k $SUB=vss $[rppd] w=1e-6 l=10e-6 b=0 m=2
MM2 T1 T1 T1 Vss sg13_hv_nmos w=15u l=2u ng=2
.ends

* expanding   symbol:  voltage_sum.sym # of pins=6
** sym_path: ./schematic/xschem/voltage_sum.sym
** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/schematic/xschem/voltage_sum.sch
.subckt voltage_sum ibias vss vout vin1 vdd vin2
*.PININFO vin1:B vout:B vin2:B vss:B vdd:B ibias:B
x1 vdd net2 vss net1 ibias vout opamp_rtr
RR4 net2 vin1 25.915k $SUB=vss $[rppd] w=1e-6 l=100e-6 b=0
RR1 net2 vin2 25.915k $SUB=vss $[rppd] w=1e-6 l=100e-6 b=0
RR2 vout net1 25.915k $SUB=vss $[rppd] w=1e-6 l=100e-6 b=0
RR3 vss net1 25.915k $SUB=vss $[rppd] w=1e-6 l=100e-6 b=0
.ends


* expanding   symbol:
*+  /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/macros/opamp_rtr/schematic/xschem/opamp_rtr.sym # of pins=6
** sym_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/macros/opamp_rtr/schematic/xschem/opamp_rtr.sym
** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/macros/opamp_rtr/schematic/xschem/opamp_rtr.sch
.subckt opamp_rtr vdd inp vss inn ibias out
*.PININFO inp:I out:O vdd:B inn:I ibias:I vss:B
MXM6 out1_n inp ncmdiff_n vss sg13_hv_nmos w=5u l=2u ng=4
MXM1 net1 inn ncmdiff_p ncmdiff_p sg13_hv_pmos w=15u l=2u ng=4
MXM2 ncmdiff_p inp out1_p ncmdiff_p sg13_hv_pmos w=15u l=2u ng=4
MXM3 ncmdiff_p vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM4 vss net1 net1 vss sg13_hv_nmos w=5u l=4u ng=4
MXM5 out1_p net1 vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM7 ncmdiff_n inn net2 vss sg13_hv_nmos w=5u l=2u ng=4
MXM8 ncmdiff_n ibias vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM9 vdd net2 out1_n vdd sg13_hv_pmos w=15u l=4u ng=4
MXM10 net2 net2 vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM25 nswa vbias_p ncmdiff_p ncmdiff_p sg13_hv_pmos w=15u l=1u ng=2
MXM26 nswa nswa vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM27 ncmdiff_n nswa vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM28 ncmdiff_n vbias_p nswb vss sg13_hv_nmos w=5u l=1u ng=2
MXM29 nswb nswb vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM30 ncmdiff_p nswb vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM13 out1_n nabn out1_p vss sg13_hv_nmos w=5u l=1u ng=2
MXM14 out1_p nabp out1_n vdd sg13_hv_pmos w=15u l=1u ng=2
MXM15 out1_n vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM16 out1_p nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM23 nab_ref vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM24 nab_ref nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM17 nabn vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM18 nabn nabn net3 vss sg13_hv_nmos w=5u l=1u ng=2
MXM19 net3 net3 vss vss sg13_hv_nmos w=5u l=1u ng=2
MXM20 nabp nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM21 nabp nabp net4 vdd sg13_hv_pmos w=15u l=1u ng=2
MXM22 net4 net4 vdd vdd sg13_hv_pmos w=15u l=1u ng=2
MXM11 out out1_n vdd vdd sg13_hv_pmos w=60u l=1u ng=8
MXM12 out out1_p vss vss sg13_hv_nmos w=20u l=1u ng=8
MXB1 ibias ibias vss vss sg13_hv_nmos w=5u l=4u ng=2
MXB2 vbias_p ibias vss vss sg13_hv_nmos w=5u l=4u ng=2
MXB3 vbias_p vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
**** begin user architecture code


*bias network
*first stage

*output control circuit



**** end user architecture code
CC3 out net5 cap_cmomf w=13.5e-6 l=21e-6
CC2 out net6 cap_cmomf w=13.5e-6 l=21e-6
RR4 net5 out1_n 51.16k $SUB=vss $[rhigh] w=1e-6 l=36e-6 b=0
RR2 net6 out1_p 51.16k $SUB=vss $[rhigh] w=1e-6 l=36e-6 b=0
MDUMMY1 ncmdiff_n ncmdiff_n ncmdiff_n vss sg13_hv_nmos w=5u l=0.45u ng=4
MDUMMY2 ncmdiff_n ncmdiff_n ncmdiff_n vss sg13_hv_nmos w=5u l=0.45u ng=2
MDUMMY10 out1_n out1_n out1_n vdd sg13_hv_pmos w=15u l=1u ng=2
MDUMMY11 out1_p out1_p out1_p vss sg13_hv_nmos w=5u l=1u ng=2
RRDUMMY vss vss 6.455k $SUB=vss $[rhigh] w=1e-6 l=9e-6 b=0 m=2
MDUMMY3 ncmdiff_p ncmdiff_p ncmdiff_p ncmdiff_p sg13_hv_pmos w=30u l=0.4u ng=6
MDUMMY4 vss vss vss vss sg13_hv_nmos w=22.5u l=0.45u ng=12
MDUMMY5 vdd vdd vdd vdd sg13_hv_pmos w=60u l=0.4u ng=11
.ends


* expanding   symbol:
*+  /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/macros/isource_beta/schematic/xschem/isource_beta.sym # of pins=8
** sym_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/macros/isource_beta/schematic/xschem/isource_beta.sym
** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/macros/isource_beta/schematic/xschem/isource_beta.sch
.subckt isource_beta b0 vdd b1 out b2 b3 vss b4
*.PININFO out:O vdd:B vss:B b0:B b1:B b2:B b3:B b4:B
MM1 net1 v0 vdd vdd sg13_hv_pmos w=12u l=4u ng=4
MM2 v0 v0 vdd vdd sg13_hv_pmos w=12u l=4u ng=4
MM3 net1 net1 vss vss sg13_hv_nmos w=40u l=4u ng=8
MM4 v0 net1 iref vss sg13_hv_nmos w=40u l=4u ng=8 m=3
MM5 out v0 vdd vdd sg13_hv_pmos w=12u l=4u ng=4
MMS1 net2 vdd vdd vdd sg13_hv_pmos w=1u l=10u ng=1
MMS2 net2 net1 vss vss sg13_hv_nmos w=10u l=0.45u ng=2
MMS3 v0 net2 vss vss sg13_hv_nmos w=10u l=0.45u ng=2
RR10 iref net4 41.422k $SUB=vss $[rppd] w=1e-6 l=160e-6 b=0
RR2 net6 vss 2.6545k $SUB=vss $[rppd] w=1e-6 l=10e-6 b=0
MM6 iref b4 net4 vss sg13_hv_nmos w=16u l=0.45u ng=2
RR3 net5 net6 5.239k $SUB=vss $[rppd] w=1e-6 l=20e-6 b=0
RR4 net3 net5 10.408k $SUB=vss $[rppd] w=1e-6 l=40e-6 b=0
RR5 net4 net3 20.746k $SUB=vss $[rppd] w=1e-6 l=80e-6 b=0
MM7 net4 b3 net3 vss sg13_hv_nmos w=16u l=0.45u ng=2
MM8 net3 b2 net5 vss sg13_hv_nmos w=16u l=0.45u ng=2
MM9 net5 b1 net6 vss sg13_hv_nmos w=16u l=0.45u ng=2
MM10 net6 b0 vss vss sg13_hv_nmos w=16u l=0.45u ng=2
MM11 v0 v0 v0 vss sg13_hv_nmos w=100u l=0.5u ng=20
MM12 vss vss vss vss sg13_hv_nmos w=26u l=0.45u ng=4
RR1 vss vss 1.3272k $SUB=vss $[rppd] w=1e-6 l=10e-6 b=0 m=2
MM13 vss vss vss vss sg13_hv_nmos w=20u l=0.5u ng=4
MMS4 vdd vdd vdd vdd sg13_hv_pmos w=18u l=0.4u ng=6
.ends

